### PR TITLE
[Merged by Bors] - feat(CategoryTheory): `MonoidalClosed` instance on functors to `Type`

### PR DESCRIPTION
**Pull request by mckoen**
This PR defines an instance of `MonoidalClosed` on `C ⥤ Type max w v u` where `C : Type u` with `[Category.{v} C]`, and `w` is an arbitrary universe. An explicit internal hom functor is constructed, and is proved to be a right adjoint to `tensorLeft`.

---

- [x] depends on: #13841
<!-- The text above the `---` will become the commit message when your
PR is merged. Please leave a blank newline before the `---`, otherwise
GitHub will format the text above it as a title.

To indicate co-authors, include lines at the bottom of the commit message
(that is, before the `---`) using the following format:

Co-authored-by: Author Name <author@email.com>

Any other comments you want to keep out of the PR commit should go
below the `---`, and placed outside this HTML comment, or else they
will be invisible to reviewers.

If this PR depends on other PRs, please list them below this comment,
using the following format:
- [ ] depends on: #abc [optional extra text]
- [ ] depends on: #xyz [optional extra text]

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Closed/FunctorToTypes.lean [hunk 1]
```diff
@@ -0,0 +1,135 @@
...
+  app := fun d ⟨g, x⟩ ↦ f.app d (x, G.map g.down y)
+  naturality a b h := by
+    ext ⟨g, x⟩
+    have := f.naturality h
+    apply_fun (fun f ↦ f (x, G.map g.down y)) at this
+    dsimp only [coyoneda, uliftFunctor]
+    aesop
+
+@[ext]
+lemma homEquiv_toFun_app_ext {c : C} {f g : (ihom F G).obj c} :
```
Comment (adamtopaz) [inline Mathlib/CategoryTheory/Closed/FunctorToTypes.lean:65]: i think `f` and `g` can be explicit here.

File: Mathlib/CategoryTheory/Closed/FunctorToTypes.lean [hunk 2]
```diff
@@ -0,0 +1,135 @@
...
+/-- Given a morphism `F ⊗ G ⟶ H`, construct a morphism `G ⟶ ihom F H`. -/
+def homEquiv_toFun (f : F ⊗ G ⟶ H) : G ⟶ ihom F H where
+  app := homEquiv_toFun_app f
+  naturality c d g := by
+    ext
+    simp only [ihom, types_comp_apply, coyoneda, uliftFunctor, homEquiv_toFun_app]
+    aesop
+
+@[ext]
+lemma homEquiv_toFun_ext {f g : G ⟶ ihom F H} :
```
Comment (adamtopaz) [inline Mathlib/CategoryTheory/Closed/FunctorToTypes.lean:77]: Same here.

File: Mathlib/CategoryTheory/Closed/FunctorToTypes.lean [hunk 3]
```diff
@@ -0,0 +1,135 @@
...
+      rw [Eq.symm (FunctorToTypes.naturality G H f g.down y)]
+  }
+  counit := { app := fun G ↦ homEquiv_invFun (𝟙 _) }
+
+instance closed (F : C ⥤ Type max w v u) : Closed F where
+  rightAdj := rightAdj F
+  adj := adj F
+
+instance cartesianClosed : CartesianClosed (C ⥤ Type max w v u) :=
+  letI _ : MonoidalCategory (C ⥤ Type (max w v u)) := monoidalOfHasFiniteProducts _
```
Comment (adamtopaz) [inline Mathlib/CategoryTheory/Closed/FunctorToTypes.lean:127]: I'm a little confused. We checked earlier that the monoidal structure being used above came from the "chosen" cartesian structure, but this suggests that you're looking at the "noncomputable" version coming from existence of finite products in the sense of `limit`. Can you check that the code above (especially `adj`) is indeed using the chosen cartesian structure?

Comment (mckoen) [reply Mathlib/CategoryTheory/Closed/FunctorToTypes.lean:127]: As far as I can tell everything uses the "chosen" cartesian structure. I am checking in the same way as earlier, by seeing if `(F ⊗ G).obj c = ((F.obj c) × (G.obj c))` is true by `rfl`. It seems to be true in the context of `adj`.

File: Mathlib/CategoryTheory/Closed/FunctorToTypes.lean [hunk 4]
```diff
@@ -0,0 +1,136 @@
...
+  (whiskeringRight _ _ _).obj CategoryTheory.uliftFunctor.{max w v u}
+
+/-- the co-Yoneda embedding ulifted from `Type v` to `Type max w v u` -/
+def coyoneda {C : Type u} [Category.{v} C] : Cᵒᵖ ⥤ C ⥤ Type max w v u :=
+    CategoryTheory.coyoneda ⋙ uliftFunctor.{w}
+
+noncomputable section
+
+/-- The internal hom of two functors `C ⥤ Type max w v u`. -/
+def ihom (F G : C ⥤ Type max w v u) : C ⥤ Type max w v u where
```
[the remark this answers is not in the document]
Comment (joelriou) [reply Mathlib/CategoryTheory/Closed/FunctorToTypes.lean:42]: Then, this `ihom` applied to two simplicial objects will give a simplicial set. (This construction is analogous to `presheafHom` in `Sites.SheafHom`.)

File: Mathlib/CategoryTheory/Closed/FunctorToTypes.lean (hunk 3 above)
Comment (adamtopaz) [reply Mathlib/CategoryTheory/Closed/FunctorToTypes.lean:128]: I see what's happening now. The code you have could be problematic because there are two monoidal instances around. I would just make a `MonoidalClosed` instance instead.

Comment (mckoen) [reply Mathlib/CategoryTheory/Closed/FunctorToTypes.lean:128]: Ok, I guess `CartesianClosed` can be worked out later, if at all

File: Mathlib/CategoryTheory/Closed/FunctorToTypes.lean (hunk 4 above)
[the remark this answers is not in the document]
Comment (mckoen) [reply Mathlib/CategoryTheory/Closed/FunctorToTypes.lean:42]: Thanks Joël, I remember now that you already spoke to me about doing things this way. This does seem better to me. I guess I'll work on proving the adjunction with this definition of `ihom` instead.

**Comment by jcommelin** [comment]
@mckoen The linter is unhappy with this PR. For example there are some docstrings missing... could you please add those?

File: Mathlib/CategoryTheory/Closed/FunctorToTypes.lean [hunk 5]
```diff
@@ -0,0 +1,75 @@
...
+/-- The adjunction `tensorLeft F ⊣ rightAdj F`. -/
+def adj : tensorLeft F ⊣ rightAdj F where
+  unit := {
+    app := fun G ↦ (functorHomEquiv F G _).2 (𝟙 _)
+    naturality := fun G H f ↦ by
+      ext _ y
+      dsimp [rightAdj, rightAdj_map, functorHomEquiv, Functor.functorHomEquiv, homObjEquiv]
+      ext
+      simp only [Monoidal.tensorObj_obj, types_comp_apply, whiskerLeft_apply]
+      rw [Eq.symm (FunctorToTypes.naturality G H f _ y)] }
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Closed/FunctorToTypes.lean:59]:
```suggestion
      simp [FunctorToTypes.naturality] }
```

File: Mathlib/CategoryTheory/Closed/FunctorToTypes.lean [hunk 6]
```diff
@@ -0,0 +1,75 @@
...
+  counit := { app := fun G ↦ functorHomEquiv F _ G (𝟙 _) }
+  left_triangle_components := fun _ ↦ by
+    dsimp [functorHomEquiv, Functor.functorHomEquiv, homObjEquiv]
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Closed/FunctorToTypes.lean:62]: Does automation work directly if `functorHomEquiv`, `Functor.functorHomEquiv`, and `homObjEquiv` are tagged with `@[simps]`/`@[simps!]`? Are there any drawbacks to this?

Comment (mckoen) [reply Mathlib/CategoryTheory/Closed/FunctorToTypes.lean]: Automation makes `adj` a lot shorter if I add `@[simps]` /`@[simps!]` to `functorHomEquiv`, `Functor.functorHomEquiv`, `homObjEquiv`, but also `rightAdj`, `rightAdj_map` and `homObjFunctor`. The first 3 suffice to remove `right_triangle_components`, and the last 3 seem necessary to remove `left_triangle_components`. I'm not sure of any drawbacks to this.

**Comment by dagurtomas** [comment]
!bench

**Comment by dagurtomas** [comment]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
